US07452893B2
A mixture of benzyl {trans-3-[2-(4-methylphenyl)ethoxy]cyclopentyl}carbamate (291 mg, 0.82 g) and 5% palladium on carbon (150 mg) in ethanol (8 ml) was hydrogenated (hydrogen balloon) for three hours. The catalyst was removed by filtration through Celite. The filter cake was washed with ethanol (3×10 ml) and the filtrate was concentrated under reduced pressure to give an oil. The oil was filtered through a pad of silica gel eluting first with methanol: methylene chloride (10:90) to remove impurities, then with methanol: methylene chloride: conc. ammonium hydroxide (20:80:2), and the filtrate concentrated to give trans-3-[2-(4-methylphenyl)ethoxy]cyclopentanamine (154 mg, 86%), as a colorless oil.

reactant | benzyl {trans-3-[2-(4-methylphenyl)ethoxy]cyclopentyl}carbamate | 291 mg | CC1=CC=C(C=C1)CCO[C@@H]1C[C@H](CC1)NC(OCC1=CC=CC=C1)=O | C22H27NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | trans-3-[2-(4-methylphenyl)ethoxy]cyclopentanamine | 154 mg, 86% | CC1=CC=C(C=C1)CCO[C@@H]1C[C@H](CC1)N | C14H21NO
